US07947738B2
(32-c) (1-Vinylcyclobutyl)ethanol
Cyclobutylideneethanol (22.14 g, <60 mmol) was dissolved in triethyl orthoacetate (25 mL). To the solution, phenol (1.02 g, 11.6 mmol) was added, and the mixture was stirred for 1 day under heating to reflux. The mixture was allowed to cool, and saturated saline was then added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. To the residue, a 2 N potassium hydroxide-methanol solution (80 mL) was added, and the mixture was stirred overnight at room temperature. The solvent was distilled off under reduced pressure, and the residue was then dissolved in a 2 N aqueous sodium hydroxide solution and washed with diethyl ether. The aqueous layer was made acidic using concentrated hydrochloric acid under ice cooling, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in tetrahydrofuran (70 mL). To the solution, lithium aluminum hydride (948.8 mg, 25 mmol) was then added under ice cooling. The mixture was brought to room temperature and then stirred for 7 hours under heating to reflux. Methanol (1.5 mL) and a 1 N aqueous sodium hydroxide solution (1.5 mL) were added thereto under ice cooling, and the mixture was further stirred at room temperature for 1 hour and then filtered through Celite. The residue was washed with dichloromethane and saturated saline. These filtrates were combined and separated into aqueous and organic layers. The organic layer was washed with a 1 N aqueous sodium hydroxide solution and saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the compound of interest as a colorless oil substance (1.94 g, 25%).

reactant | Cyclobutylideneethanol | <60 mmol, 22.14 g | C1(CCC1)=C(C)O | C6H10O
reactant | phenol | 11.6 mmol, 1.02 g | C1(=CC=CC=C1)O | C6H6O
reactant | lithium aluminum hydride | 25 mmol, 948.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 N, 1.5 mL | [OH-].[Na+]
solvent | triethyl orthoacetate | 25 mL | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | Methanol | 1.5 mL | CO | CH4O
product | (1-Vinylcyclobutyl)ethanol | C(=C)C1(CCC1)C(C)O | C8H14O
